US04870074
Preparation of 2-aminomethyl-4-ethoxycarbonylmorpholine
A mixture of N-[(4-ethoxycarbonyl-2-morpholinyl)methyl]phthalimide (10.0 g), 85% hydrazine hydrate (2.9 g), and ethanol (10 ml) is refluxed with stirring for 10 minutes. The reaction mixture is filtered and the filtrate is extracted with chloroform. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. Removal of the solvent under reduced pressure gives the title compound (5.8 g) as an oil.

reactant | N-[(4-ethoxycarbonyl-2-morpholinyl)methyl]phthalimide | 10.0 g | C(C)OC(=O)N1CC(OCC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H18N2O5
reactant | hydrazine hydrate | 2.9 g | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-aminomethyl-4-ethoxycarbonylmorpholine | 5.8 g | NCC1CN(CCO1)C(=O)OCC | C8H16N2O3
